US05821245
A mixture of 1-(1-methylpiperidin-4-yl)-7-trifluoromethanesulfonyloxynaphthalene (0.25 g, 0.67 mmol), triethylamine (0.373 mL, 2.68 mmol), 3-(4-chlorophenyl)propylamine (0.341 mL, 2.01 mmol), and bis(triphenylphosphine)palladium chloride (0.025 g, 0.033 mmol) was blanketed with an atmosphere of carbon monoxide (balloon) and heated to 105° C. for 16 hours (h) . The reaction was diluted with ethyl acetate and filtered through celite. The filtrate was washed with water and brine, dried and concentrated. The residue was flash chromatographed on silica gel (1×3 inches packed with 75% ethyl acetate/hexane). Elution proceeded as follows: 75% ethyl acetate/hexane, 150 mL, nil; ethyl acetate, 150 mL, nil; 2% methanol/1% triethylamine/ethyl acetate, 200 mL and 2% methanol/1% triethylamine/ethyl acetate, 150 mL, 0.196 g of a yellow-oil which slowly crystallized. This material was recrystallized from chloroform/ether to give 0.064 g (23%) of 1-(1-methylpiperidin-4-yl)-7-naphthalene carboxylic acid 3-(4-chlorophenyl)propyl amide as white crystals which had mp 132°-133.5° C.; 1H NMR (250 MHz, CDCl3) δ 8.66 (s, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.72 (d, J=7.5 Hz, 1H), 7.58-7.46 (m, 3H), 7.27-7.23 (m, 2H partially obscurred by the NMR solvent), 7.15 (long range coupled d, J=8.5 Hz, 2H), 6.23 (br t, 1H), 3.55 (q, J=6.5 Hz, 2H), 3.39 (sym m, 1H), 3.02 (br d, J=12 Hz, 2H), 2.72 (t, J=7.5 Hz, 2H), 2.36 (s, 3H), 2.23 (sym m, 2H), 2.04-1.89 (m, 6H). Analysis calculated for C26H29ClN2O·0.25 H2O: C, 73.40; H, 6.99; N, 6.58. Found: C, 73.30; H, 7.12; N, 6.56.

reactant | 1-(1-methylpiperidin-4-yl)-7-trifluoromethanesulfonyloxynaphthalene | 0.67 mmol, 0.25 g | CN1CCC(CC1)C1=CC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C17H18F3NO3S
reactant | triethylamine | 2.68 mmol, 0.373 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-chlorophenyl)propylamine | 2.01 mmol, 0.341 mL | ClC1=CC=C(C=C1)CCCN | C9H12ClN
reactant | carbon monoxide | [C]=O | CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium chloride | 0.033 mmol, 0.025 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(1-methylpiperidin-4-yl)-7-naphthalene carboxylic acid 3-(4-chlorophenyl)propyl amide | 0.064 g, 23% | ClC1=CC=C(C=C1)CCCNC(=O)C1=CC=C2C=CC=C(C2=C1)C1CCN(CC1)C | C26H29ClN2O
